US08236319B2
4-(tert-butoxycarbonylamino)-3-sulfobutanoic acid
1-(tert-Butoxycarbonylamino)-4-ethoxy-4-oxobutane-2-sulfonic acid (402 mg, 1.29 mmol) in the mixture of THF/H2O (1:2, 60 ml) was added lithium hydroxide monohydrate (2.0 g, 47.6 mmol). The mixture was stirred under Ar overnight, concentrated, purified on C-18 column (2×30 cm) eluted with from 100% water to 10% methanol in water to afford 328 mg (90%) of the title compound. 1H NMR (DMSO), 6.78 (s, 1H), 4.03 (m, 1H), 3.57 (dd, 1H, J=4.2, 13.4 Hz), 3.41 (m, 1H), 2.89 (m, 1H), 2.61 (m, 1H), 1.39 (s, 9H); 13C NMR 174.21, 155.82, 79.85, 59.95, 42.06, 32.52, 28.88, 14.55; ESI MS 281.8 (M−H);

reactant | 1-(tert-Butoxycarbonylamino)-4-ethoxy-4-oxobutane-2-sulfonic acid | 1.29 mmol, 402 mg | C(C)(C)(C)OC(=O)NCC(CC(=O)OCC)S(=O)(=O)O | C11H21NO7S
reactant | lithium hydroxide monohydrate | 47.6 mmol, 2.0 g | O.[OH-].[Li+]
solvent | THF H2O | 60 ml | C1CCOC1.O
product | 4-(tert-butoxycarbonylamino)-3-sulfobutanoic acid | 328 mg, 90% | C(C)(C)(C)OC(=O)NCC(CC(=O)O)S(=O)(=O)O | C9H17NO7S
